US07297715B2
Step C: Methyl 2-(4-hydroxyphenoxy)-2-methylbutanoate
A solution of methyl-(4-(benzyloxy)phenoxy)-2-methylbutanoate (32 g) in 100 mL MeOH was hydrogenated using 10% Pd/C at 40 psi. The mixture was filtered through a pad of celite to remove the catalyst. The filtrate was concentrated to afford thick oily residue (21 g, quantitative).

reactant | methyl-(4-(benzyloxy)phenoxy)-2-methylbutanoate | 32 g | CC(C(C(=O)[O-])(C)OC1=CC=C(C=C1)OCC1=CC=CC=C1)C
reactant | MeOH | 100 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | Methyl 2-(4-hydroxyphenoxy)-2-methylbutanoate | OC1=CC=C(OC(C(=O)OC)(CC)C)C=C1 | C12H16O4
